US09371320B2
B) 4-methoxy-1-(tetrahydrofuran-3-yl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one
A solution of 4-iodo-2-methoxy-N′-(tetrahydrofuran-3-yl)nicotinohydrazide (1.26 g), L-proline (0.080 g), potassium carbonate (0.957 g) and copper(I) iodide (0.066 g) in DMSO (25 mL) was stirred under nitrogen atmosphere at room temperature for 3 hr. The reaction mixture was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.263 g).

reactant | 4-iodo-2-methoxy-N′-(tetrahydrofuran-3-yl)nicotinohydrazide | 1.26 g | IC1=CC=NC(=C1C(=O)NNC1COCC1)OC | C11H14IN3O3
reactant | L-proline | 0.080 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 0.957 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.066 g | [Cu]I
product | 4-methoxy-1-(tetrahydrofuran-3-yl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one | 0.263 g | COC1=NC=CC2=C1C(NN2C2COCC2)=O | C11H13N3O3
